US05977178
4-Oxopiperidine-1-carboxylic acid tert-butyl ester (8.0 g; 40.2 mmol) was dissolved in toluene (80 mL). Carboethoxymethylene triphenylphosphorane (17.5 g; 50.2 mmol) was added and the reaction mixture was heated 12 hours at reflux. The reaction mixture was evaporated in vacuo and the residue was chromatographed on silica (4.5×30 cm) using diethyl ether/heptane (1:1) as eluent to afford 9.5 g (35.7 mmol) of 4-Ethoxycarbonylmethylenepiperidine-1-carboxylic acid tert-butyl ester, which was dissolved in 1,4-dioxane and cooled to 0° C. Lithium hydroxide (2.73 g; 114 mmol) was dissolved in water (20 mL) and added. The reaction mixture was stirred for 12 hours at room temperature. Ethyl acetate (200 mL) and water (100 mL) was added. Sodium hydrogen sulfate (10%; aqueous solution) was added to pH 2. The organic phase was washed with water (100 mL), dried (magnesium sulfate) and evaporated in vacuo to afford 5.49 g of 4-carboxymethylenepiperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-Oxopiperidine-1-carboxylic acid tert-butyl ester | 40.2 mmol, 8.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | Carboethoxymethylene triphenylphosphorane | 50.2 mmol, 17.5 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Ethoxycarbonylmethylenepiperidine-1-carboxylic acid tert-butyl ester | 35.7 mmol, 9.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC(=O)OCC | C14H23NO4
